US08217044B2
To a solution of 3-methoxy-4-nitrobenzamide (8 g, 41 mmol) in dioxane (300 mL) was added pyridine (32 g, 408 mmol), followed by dropwise addition of trifluoroacetic anhydride (43 g, 204 mmol). The reaction mixture was stirred at room temperature for 5 h. Water was added to quench the reaction. The mixture was concentrated, then the residue was partitioned between ethyl acetate and water. The organic layer was separated, the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water, aqueous saturated CuSO4 solution, brine, dried over MgSO4, and concentrated to give 3-methoxy-4-nitrobenzonitrile as a off white solid (6.5 g, 90%)

reactant | 3-methoxy-4-nitrobenzamide | 41 mmol, 8 g | COC=1C=C(C(=O)N)C=CC1[N+](=O)[O-] | C8H8N2O4
reactant | pyridine | 408 mmol, 32 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 204 mmol, 43 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Water | O | H2O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 3-methoxy-4-nitrobenzonitrile | COC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O3
